US05708008
N-benzyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)thiourea
Beginning with 15.0 mg (0.0655 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 14.63 mg (0.098 mMol) benzyl isothiocyanate, 17.0 mg (86%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0655 mMol, 15.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | benzyl isothiocyanate | 0.098 mMol, 14.63 mg | C(C1=CC=CC=C1)N=C=S | C8H7NS
product | N-benzyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)thiourea | 17.0 mg, 86% | C(C1=CC=CC=C1)NC(=S)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C22H26N4S
